US07557215B2
2-Hydroxymethyl-piperidin-1-yl-acetonitrile (S4)
The method follows that of S3 using 2-piperidinemethanol (26.50 g, 0.230 mol), BrCH2CN (30.35 g, 0.253 mol), Et3N (35.27 mL, 0.253 mol) and dry THF (150 mL). The crude product was purified by flash chromatography using ether/CH3OH (19:1) as eluent. The title-compound was crystallised from ether yielding cream-coloured crystals (31.46 g, 89%). δH(250 MHz; CDCl3); 1.2-1.85 (m, 6H, NCH2CH2CH2, CH2CH2CH2CH and CH2CH2CH), 2.05 (s (broad), 6H, OH), 2.4 (m, 1H, NCH2CH2), 2.55 (3×d, 1H. 1×NCH2CH2), 2.95 (m, 1H, NCHCH2), 3.45 (d, 1H, J=17 Hz, 1×NCH2CN), 3.5 (2×d, 1H, J=3 Hz and 12 Hz, 1×CHCH2OH), 3.76 (2×d, 1H, J=3 Hz and 12 Hz, CHCH2OH) and 4.05 (d, 1H, J=17 Hz, 1×NCH2CN); δC (62.9 MHz; CDCl3); 23.71, 25.25, 28.69, 43.43, 54.04, 60.73, 64.46 and 115.05 (CN); FAB MS, m/z(M+H)+ 155; IR υmax/cm−1; 3400 (OH, m broad), 2350 and 2240 (CN) and 1650.

reactant | 2-piperidinemethanol | 0.230 mol, 26.50 g | N1C(CCCC1)CO | C6H13NO
reactant | BrCH2CN | 0.253 mol, 30.35 g | BrCC#N | C2H2BrN
reactant | Et3N | 0.253 mol, 35.27 mL | CCN(CC)CC | C6H15N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethyl-piperidin-1-yl-acetonitrile | OCC1N(CCCC1)CC#N | C8H14N2O
